US04642311
To epichlorohydrin (20 g., 0.216 mole) heated at 55° C. is added dropwise a solution of 2-methyl-4-hydroxybenzaldehyde (9.0 g., 0.066 mole) in 2.5N sodium hydroxide solution (40 ml.). After the addition, the solution is allowed to stir an additional 3 hours at 55° C. and then at room temperature overnight. The oil is distilled to give 8.3 g of 2-methyl-4-(2,3-epoxypropyl)benzaldehyde, m.p. 160°-170° C. at 1 mm. Hg.

reactant | epichlorohydrin | 0.216 mole, 20 g | C(Cl)C1CO1 | C3H5ClO
reactant | 2-methyl-4-hydroxybenzaldehyde | 0.066 mole, 9.0 g | CC1=C(C=O)C=CC(=C1)O | C8H8O2
solvent | sodium hydroxide | 2.5N, 40 ml | [OH-].[Na+]
product | 2-methyl-4-(2,3-epoxypropyl)benzaldehyde | 8.3 g | CC1=C(C=O)C=CC(=C1)CC1CO1 | C11H12O2
